US05821239
4-[[(Dimethylamino)methylene]amino]-3-pyridinol (3.0 g) was refluxed in N-benzyl-N-methylamine (6.12 ml) and dry toluene (60 ml) overnight. The reaction mixture was concentrated, adhered to silica (MeOH), flash chromatographed (10% MeOH/EtOAc) and concentrated to give 4.4 g of 4-[[(N-benzyl-N-methylamino)methylene]amino]-3-pyridinol.

reactant | 4-[[(Dimethylamino)methylene]amino]-3-pyridinol | 3.0 g | CN(C)C=NC1=C(C=NC=C1)O | C8H11N3O
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | N-benzyl-N-methylamine | 6.12 ml | C(C1=CC=CC=C1)NC | C8H11N
product | 4-[[(N-benzyl-N-methylamino)methylene]amino]-3-pyridinol | 4.4 g | C(C1=CC=CC=C1)N(C)C=NC1=C(C=NC=C1)O | C14H15N3O
